US04436748
A mixture of 4.0 g of 6,7-dichloro-5-methoxy-2-(2'-methylphenyl)benzo[b]thiophene and 40 g of pyridine hydrochloride is heated at 200°-205° for 3 hrs. To the cooled mixture is added 250 ml of water and the aqueous mixture is extracted with three 200 ml-portions of ethyl ether. The organic layers are combined, washed dried over anhydrous magnesium sulfate, filtered and the solvent is removed. Recrystallization of the residue from ether-pentane gives 2.8 g of 6,7-dichloro-5-hydroxy-2-(2'-methylphenyl)benzo[b]thiophene, mp 106°-107°.

reactant | 6,7-dichloro-5-methoxy-2-(2'-methylphenyl)benzo[b]thiophene | 4.0 g | ClC=1C(=CC2=C(SC(=C2)C2=C(C=CC=C2)C)C1Cl)OC | C16H12Cl2OS
reactant | pyridine hydrochloride | 40 g | Cl.N1=CC=CC=C1
solvent | water | 250 ml | O | H2O
product | 6,7-dichloro-5-hydroxy-2-(2'-methylphenyl)benzo[b]thiophene | 2.8 g | ClC=1C(=CC2=C(SC(=C2)C2=C(C=CC=C2)C)C1Cl)O | C15H10Cl2OS
